US08404861B2
Production of 1 4-iodo-1,3-dimethyl-5-trifluoromethylpyrazole
Iodine (30 g) was dissolved in 60% sulfuric acid (fuming, 80 g), and 1,3-dimethyl-5-trifluoromethylpyrazole (13.12 g, 80 mmol) was slowly added under ice-cooling. The mixture was stirred at 0° C. for 2 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with aqueous sodium thiosulfate and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The obtained crude crystals were washed with hexane to give the desired compound (20 g) as crystals.

reactant | Iodine | 30 g | II | I2
reactant | 1,3-dimethyl-5-trifluoromethylpyrazole | 80 mmol, 13.12 g | CN1N=C(C=C1C(F)(F)F)C | C6H7F3N2
solvent | sulfuric acid | 80 g | S(O)(O)(=O)=O | H2O4S
product | 4-iodo-1,3-dimethyl-5-trifluoromethylpyrazole | 20 g, yield 86% | IC=1C(=NN(C1C(F)(F)F)C)C | C6H6F3IN2
